US08461179B1
A mixture of 1-(5-(7-chloro-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluoro-4-methylphenyl)-3-(4-fluoro-3-((4-methylpiperazin-1-yl)methyl)phenyl)urea (0.120 g, 0.207 mmol), formamide (0.041 ml, 1.033 mmol) and K2CO3 (0.057 g, 0.413 mmol) in dioxane (3 mL) was sparged with Ar, treated with BrettPhos Palladacycle (8.05 mg, 10.33 μmol), sparged again with Ar, and heated to 100° C. for 1 h. The mixture was cooled to RT, treated with EtOAc and satd. NaHCO3, filtered to remove insoluble material and the layers separated. The organic layer was washed with brine, dried over MgSO4 and concentrated to dryness. The material was treated with a small amount of DCM, allowed to stand at RT, and the resulting solid collected via filtration and dried. The filtrate was concentrated to dryness, layered with a small amount of DCM and allowed to stand at RT overnight. The resulting solid was collected via filtration and combined with the above-isolated solid to afford N-(1-ethyl-3-(4-fluoro-5-(3-(4-fluoro-3-((4-methylpiperazin-1-yl)methyl)phenyl)ureido)-2-methylphenyl)-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)formamide (53 mg, 44% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.38 (m, 1H), 9.05 (s, 1H), 8.69 (d, J=18.4 Hz, 1H), 8.44 (s, 1H), 8.21 (s, 1H), 7.96 (d, J=8.4 Hz, 1H), 7.90 (s, 1H), 7.43 (dd, J=6.5, 2.8 Hz, 1H), 7.30 (ddd, J=8.9, 4.4, 2.8 Hz, 1H), 7.16 (d, J=12.2 Hz, 1H), 7.05 (t, J=9.3 Hz, 1H), 6.96 (s, 1H), 4.19 (m, 2H), 3.42 (s, 2H), 2.41-2.19 (m, 8H), 2.10 (s, 3H), 2.07 (s, 3H), 1.24 (m, 3H); MS (ESI) m/z: 590.2 [M+H]+.

reactant | 1-(5-(7-chloro-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluoro-4-methylphenyl)-3-(4-fluoro-3-((4-methylpiperazin-1-yl)methyl)phenyl)urea | 0.207 mmol, 0.120 g | ClC1=NC=C2C=C(C(N(C2=C1)CC)=O)C=1C(=CC(=C(C1)NC(=O)NC1=CC(=C(C=C1)F)CN1CCN(CC1)C)F)C | C30H31ClF2N6O2
reactant | formamide | 1.033 mmol, 0.041 ml | C(=O)N | CH3NO
reactant | K2CO3 | 0.413 mmol, 0.057 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | BrettPhos Palladacycle | 10.33 μmol, 8.05 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
product | N-(1-ethyl-3-(4-fluoro-5-(3-(4-fluoro-3-((4-methylpiperazin-1-yl)methyl)phenyl)ureido)-2-methylphenyl)-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)formamide | 53 mg, 44% yield | C(C)N1C(C(=CC2=CN=C(C=C12)NC=O)C1=C(C=C(C(=C1)NC(=O)NC1=CC(=C(C=C1)F)CN1CCN(CC1)C)F)C)=O | C31H33F2N7O3
